US05304560
A mixture of 2-[N-{4-(4-phenyl-1,2,3,6-tetrahydropyridin-1-yl)butylamino-6-fluorobenzamide (900 mg), trichloromethyl chloroformate (1.5 ml) and active charcoal (catalytic amounts) in dioxane (20 ml) was stirred for 1 hour at 80° C. The solvent was removed in vacuo. The residue was dissolved in 10% hydrogen chloride-methanol, then the solution was filtered. After evaporation of the filtrate, the residue was crystallized from ethanol-ether. The crude crystals were collected, and washed with hot ethanol to afford 1-[4-(4-phenyl-1,2,3,6-tetrahydropyridin-1-yl)butyl]-5-fluoro-2,4(1H,3H)-quinazolinedione hydrochloride (80 mg).

reactant | 4-(4-phenyl-1,2,3,6-tetrahydropyridin-1-yl)butylamino-6-fluorobenzamide | 900 mg | C1(=CC=CC=C1)C=1CCN(CC1)CCCCNC1=C(C(=O)N)C(=CC=C1)F | C22H26FN3O
reactant | trichloromethyl chloroformate | 1.5 ml | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
reactant | charcoal | C | CH4
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 1-[4-(4-phenyl-1,2,3,6-tetrahydropyridin-1-yl)butyl]-5-fluoro-2,4(1H,3H)-quinazolinedione hydrochloride | 80 mg | Cl.C1(=CC=CC=C1)C=1CCN(CC1)CCCCN1C(NC(C2=C(C=CC=C12)F)=O)=O | InChI=1S/C23H24FN3O2.ClH/c24-19-9-6-10-20-21(19)22(28)25-23(29)27(20)14-5-4-13-26-15-11-18(12-16-26)17-7-2-1-3-8-17;/h1-3,6-11H,4-5,12-16H2,(H,25,28,29);1H
